US05665718
1.96 g (4.1 mmol) of (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-11,1 2,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]-benzodiazepin-9-one were dissolved in 25 ml of ethyl acetate and hydrogenated at normal pressure and room temperature in the presence of 37 mg of 5% palladium-charcoal. The catalyst was separated and the solution was evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 1.49 g (83%) of (S)-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-11,12,13, 13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 222°-225°.

reactant | (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-11,1 2,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]-benzodiazepin-9-one | 4.1 mmol, 1.96 g | C(C=C)N(CC=C)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CCC1 | C23H23FN6O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-charcoal | 37 mg | [Pd] | Pd
product | (S)-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-11,12,13, 13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 1.49 g, 83% | C(CC)N(CCC)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CCC1 | C23H27FN6O2
